US07910612B2
3.3 g Acetic acid 4-(5-isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl ester were dissolved in 12 ml dichloromethane. 2.69 ml N,N-diisopropylethylamine, 78 mg 4-dimethylaminopyridine and 2.1 g 2-(trimethylsilyl)ethoxymethyl chloride were added. The reaction mixture was stirred at room temperature for one hour. The solvent was removed in vacuo and the residue purified by flash chromatography on silica gel with the eluents n-heptane:ethyl acetate=1:1=>1:3 to obtain 2.7 g acetic acid 4-[(5-isopropyl-[1,3,4]thiadiazol-2-yl)-(2-trimethylsilanyl-ethoxymethyl)-sulfamoyl]-phenyl ester.

reactant | Acetic acid 4-(5-isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl ester | 3.3 g | C(C)(C)C1=NN=C(S1)NS(=O)(=O)C1=CC=C(C=C1)OC(C)=O | C13H15N3O4S2
reactant | N,N-diisopropylethylamine | 2.69 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 2.1 g | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 78 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | acetic acid 4-[(5-isopropyl-[1,3,4]thiadiazol-2-yl)-(2-trimethylsilanyl-ethoxymethyl)-sulfamoyl]-phenyl ester | 2.7 g | C(C)(C)C1=NN=C(S1)N(S(=O)(=O)C1=CC=C(C=C1)OC(C)=O)COCC[Si](C)(C)C | C19H29N3O5S2Si
